US09353219B1
Preparation of 1,2-bis(4-cyanato-3-methoxyphenyl)ethane (8).
A round bottom flask was charged with 1.05 g (3.8 mmol) of 4,4′-(ethane-1,2-diyl)bis(2-methoxyphenol), THF (40 mL), and CNBr (1.06 g, 10 mmol). The flask was cooled to −20° C. and triethylamine (1.16 mL) was added dropwise. A tan solid immediately precipitated from solution. The mixture was stirred at −20° C. for 10 min and was then removed from the cold bath and allowed to spontaneously warm. After stirring for an additional 30 min, the mixture was filtered on a medium glass-frit and the solid washed with water (3×20 mL) and then air dried to yield 0.71 g of crude product. Evaporation of the filtrate followed by water and ether washes vielded an additional 0.22 g of product for a total of 0.93 g (76%). Recrystallization from hot THF yielded 625 mg of tan needles. 1H NMR (DMSO-d6) δ 7.42 (d, 2H, J=8 Hz), 7.18 (s, 2H), 6.91 (d, 2H, J=8 Hz), 3.88 (s, 3H, OMe), 2.91 (s, 2H, CH2). Anal. Calcd for C18H16O4N2: C, 66.86; H, 4.97. Found: C, 66.67; H 4.96.

reactant | 4,4′-(ethane-1,2-diyl)bis(2-methoxyphenol) | 3.8 mmol, 1.05 g | C(CC1=CC(=C(C=C1)O)OC)C1=CC(=C(C=C1)O)OC | C16H18O4
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | CNBr | 10 mmol, 1.06 g | N#CBr | CBrN
reactant | triethylamine | 1.16 mL | C(C)N(CC)CC | C6H15N
product | 1,2-bis(4-cyanato-3-methoxyphenyl)ethane | 625 mg | O(C#N)C1=C(C=C(C=C1)CCC1=CC(=C(C=C1)OC#N)OC)OC | C18H16N2O4
